US07795236B2
8-(4-Bromobenzylamino)adenosine
A mixture of 8-bromoadenosine (0.100 g), 4-bromobenzylamine hydrochloride (0.193 g) and triethylamine (0.201 mL) in ethanol (2.9 mL) was stirred under reflux for 96 hours. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by column chromatography on aminopropylated silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (0.118 g).

reactant | 8-bromoadenosine | 0.100 g | BrC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O4
reactant | 4-bromobenzylamine hydrochloride | 0.193 g | Cl.BrC1=CC=C(CN)C=C1
reactant | triethylamine | 0.201 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2.9 mL | C(C)O | C2H6O
product | 8-(4-Bromobenzylamino)adenosine | 0.118 g | BrC1=CC=C(CNC=2N([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C=3N=CN=C(C3N2)N)C=C1 | C17H19BrN6O4
